US09260375B2
2-Hydroxymethyl-3-methylmaleic anhydride
To 2-bromomethyl-3-methylmaleic anhydride (1.25 g, 6.10 mmol) was added 5 M aqueous sodium hydroxide solution (4 mL) at room temperature, and the mixture was stirred for 12 h. The reaction mixture was adjusted to pH 1 with 5 M hydrochloric acid (5 mL), added with sodium chloride and extracted three times with ethyl acetate. The combined organic layer was concentrated under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 2:1) to give 227 mg of the title compound as oil (yield: 26%).

reactant | 2-bromomethyl-3-methylmaleic anhydride | 6.10 mmol, 1.25 g | BrC/C=1/C(=O)OC(\C1\C)=O | C6H5BrO3
reactant | sodium hydroxide | 5 M, 4 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M, 5 mL | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Hydroxymethyl-3-methylmaleic anhydride | 227 mg, yield: 26% | OC/C=1/C(=O)OC(\C1\C)=O | C6H6O4
